US08735005B2
Synthesis of (2-Oxo-1,3-dioxolan-4-yl)methyl 2,2,2-trifluoroacetate (FS-A)
To a solution containing 25.0 g (0.212 mol) of glycerol 1,2-carbonate (Aldrich, Milwaukee, Wis.) in 50.0 mL of anhydrous dichloromethane, was added 30 mL of trifluoroacetic anhydride (Aldrich). This mixture was stirred in a dry box for 4 hours. Then, volatile materials were removed by roto-evaporation. The remaining liquid (57 g) was purified by vacuum distillation. The fraction collected at 2 mbar (200 Pa) and 142° C. was selected for notably good purity. The yield of 2-oxo-1,3-dioxolan-4-yl)methyl 2,2,2-trifluoroacetate, also referred to herein as FS-A, was 34 g (75%). The final product was analyzed by 1H NMR and 19F NMR as follows:

reactant | glycerol 1,2-carbonate | 0.212 mol, 25.0 g | C1C(OC(=O)O1)CO | C4H6O4
reactant | trifluoroacetic anhydride | 30 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 50.0 mL | ClCCl | CH2Cl2
product | (2-Oxo-1,3-dioxolan-4-yl)methyl 2,2,2-trifluoroacetate | FC(C(=O)OCC1OC(OC1)=O)(F)F | C6H5F3O5
